datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]1[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])([H:11])[H:12]>>[C:0](=[C:1]1[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:11])[H:12].[H:10],219.563768
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][O:32][H:33],-5.819944
[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[N:8]=[O:9]>>[C:0]([C:1](=[O:2])[H:7])([H:3])([H:4])[H:5].[H:6][N:8]=[O:9],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[C:16]([C:17]([C:18]([C:19]([C:20]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])([H:6])[C:16]([C:17]([C:18]([C:19]([C:20]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22],0.0
[C:0](#[C:1][S:2])[H:3].[C:4](=[C:5]([S:6][H:10])[H:9])([H:7])[H:8]>>[C:0](#[C:1][S:2][H:10])[H:3].[C:4](=[C:5]([S:6])[H:9])([H:7])[H:8],18.828
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[S:10]([c:11]1[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22])[H:17]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:17])([H:3])([H:4])[H:5].[S:10][c:11]1[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22],-11.2968
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:19]([C:18]([H:21])([H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:10])([H:8])[H:9],3.64008
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])[C:7]1([C:8]([H:21])([H:22])[H:23])[H:20])[H:11])([H:9])[H:10],100.542
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:25])[H:26])[H:24])=[C:14]([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:27])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:21])[H:22])[H:23])([C:12](=[C:13]([H:25])[H:26])[H:24])[C:14]([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:27])[H:4],42.1747
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([S:7][H:13])[C:8](=[S:9])[H:14])([H:10])([H:11])[H:12]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:10])([H:11])[H:12])([S:7][H:13])[C:8](=[S:9])[H:14],157.318
[C:0](=[N+:1][O-:2])([H:3])[H:4].[N:5]([H:6])[H:7]>>[C:0](#[N+:1][O-:2])[H:4].[H:3][N:5]([H:6])[H:7],-4.8116
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16],46.8608
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21],28.8696
[C:0](#[C:1][H:3])[H:2].[C:4](=[C:5]=[C:6]([H:8])[H:9])[H:7]>>[C:0](=[C:1][H:3])([H:2])[C:4](=[C:5]=[C:6]([H:8])[H:9])[H:7],57.7392
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[S:17]([H:18])[H:19]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[H:18])([H:8])([H:9])[H:10].[S:17][H:19],17.5728
[C:2]([H:3])[H:4].[N:0]#[N:1]>>[N:0](=[N:1])[C:2]([H:3])[H:4],83.5545
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15])[H:6])[H:5],42.4258
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])[H:5].[H:4][C:10](=[C:11]([H:13])[H:14])[H:12],27.526536
